US09428528B2
Preparation of 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide
N-((5-bromopyridin-2-yl)methyl)methanesulfonamide (previously described in WO9528400) (240 mg, 0.90 mmol) and 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide (400 mg, 0.90 mmol) in 2-methylpyrrolidinone (5 mL) are treated with lithium chloride (115 mg, 2.7 mmol) and degassed and purged with nitrogen. Bis(triphenylphosphine)-palladium(ii) chloride is added and the mixture heated at 100° C. for 3 hours. The mixture is cooled, diluted with water and extracted with ethyl acetate, dried over anhydrous sodium sulfate, filtered, concentrated and purified by reverse phase chromatography to give the title compound (324 mg): 1H NMR (400 MHz, CDCl3) δ: 2.96 (s, 3H), 4.2-4.3 (m, 3H), 4.4 (m, 0.5H), 4.57 (m, 0.5H), 4.58 (m, 0.5H), 4.70 (m, 0.5H), 4.90 (bs, 1H), 6.00 (s, 1H), 6.52 (s, 1H), 7.47 (d, 2H), 7.52, (d, 1H), 7.69 (d, 3H), 8.1 (m, 1H), 8.85 (m, 1H), 8.82 (bs, 1H). m/z (CI) 464.

reactant | N-((5-bromopyridin-2-yl)methyl)methanesulfonamide | BrC=1C=CC(=NC1)CNS(=O)(=O)C | C7H9BrN2O2S
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide | 0.90 mmol, 400 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | lithium chloride | 2.7 mmol, 115 mg | [Cl-].[Li+]
product | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide | 324 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C)O)CF)Cl | C18H20Cl2FN3O4S
